*
* NGSPICE simulation script lab1
* Group 37
*

* forces current values to be saved
.options savecurrents


* input voltage source
Va 1 4 5.21604048925 
Vaux 7 8 0

* input current source
Id 0 6 1.02958724781m

* input resistor value
R1 1 2 1.01360927043k
R2 3 2 2.01657828976k
R3 2 5 3.00681599161k
R4 5 4 4.04922873502k
R5 6 5 3.05392516866k
R6 4 7 2.09250198059k
R7 8 0 1.0223196044k

*Dependent voltage and current sources
Gb 6 3 (2,5) 7.2133236346m
Hc 5 0 Vaux 8.32103470507k 


.model group 37

.control


op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit


.endc

.end
